US05607934
0.45 g of p, toluenesulfonic acid hydrate was added to 60 ml of a solution of 6.15 g of 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione and 4 ml of 3,4-dihydro-2H-pyran in anhydrous dichloromethane. The mixture was stirred at room temperature for 4 hours. The reaction mixture was washed with an aqueous solution saturated with sodium hydrogen carbonate and then dried with anhydrous magnesium sulfate. The resulting mixture was subjected to distillation to remove the solvent to obtain 9.67 g of 3-ethoxycarbonyl-6-isobutyl-1-(2-tetrahydropyranyloxy)piperazine-2,5-dione as an orange oily substance.

reactant | toluenesulfonic acid hydrate | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione | 6.15 g | C(C)OC(=O)C1C(N(C(C(N1)=O)CC(C)C)O)=O | C11H18N2O5
reactant | 3,4-dihydro-2H-pyran | 4 ml | O1CCCC=C1 | C5H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-ethoxycarbonyl-6-isobutyl-1-(2-tetrahydropyranyloxy)piperazine-2,5-dione | 9.67 g | C(C)OC(=O)C1C(N(C(C(N1)=O)CC(C)C)OC1OCCCC1)=O | C16H26N2O6
